US04804661
A solution of 4.7 g of 2-fluorobenzoyl chloride in 20 ml of methylene chloride is added dropwise, over a period of 10 minutes, to a solution, stirred at room temperature, of 6.6 g of 1-[2-(4-chlorophenyl)-ethyl]-piperazine in 70 ml of methylene chloride. The reaction mixture is stirred overnight at room temperature, diluted with approximately 250 ml of methylene chloride, washed with sodium hydroxide solution and with water, dried over sodium sulphate and concentrated to dryness by evaporation. The residue is purified and characterised via the hydrochloride which has a melting point of 233°-235°. 1-[2-(4-chlorophenyl)-ethyl]-4-(2-fluorobenzoyl)-piperazine hydrochloride is thus obtained.

reactant | 2-fluorobenzoyl chloride | 4.7 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | 1-[2-(4-chlorophenyl)-ethyl]-piperazine | 6.6 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | approximately 250 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-chlorophenyl)-ethyl]-4-(2-fluorobenzoyl)-piperazine hydrochloride | Cl.ClC1=CC=C(C=C1)CCN1CCN(CC1)C(C1=C(C=CC=C1)F)=O | InChI=1S/C19H20ClFN2O.ClH/c20-16-7-5-15(6-8-16)9-10-22-11-13-23(14-12-22)19(24)17-3-1-2-4-18(17)21;/h1-8H,9-14H2;1H
